US07468457B2
b. Synthesis of 4-[(E)-3-[4-(4-tert-Butylphenyl)-5,5,8,8-tetramethyl-5,6,7,8-tetrahydro-2-naphthyl]-3-oxopropenyl]benzoic Acid
In a manner similar to that of Example 2b, by reacting 710 mg (2.0 mmol) of 1-[4-(4-tert-butylphenyl)-5,5,8,8-tetramethyl-5,6,7,8-tetrahydro-2-naphthyl]ethanone with 260 mg (1.8 mmol) of 4-carboxybenzaldehyde and 1.0 mL (8 mmol) of 47% KOH. The desired product is obtained in the form of white crystals (m=590 mg; yield=61%; m.p.=241° C.).

reactant | 1-[4-(4-tert-butylphenyl)-5,5,8,8-tetramethyl-5,6,7,8-tetrahydro-2-naphthyl]ethanone | 2.0 mmol, 710 mg | C(C)(C)(C)C1=CC=C(C=C1)C1=CC(=CC=2C(CCC(C12)(C)C)(C)C)C(C)=O | C26H34O
reactant | 4-carboxybenzaldehyde | 1.8 mmol, 260 mg | C(=O)(O)C1=CC=C(C=O)C=C1 | C8H6O3
reactant | KOH | 8 mmol, 1.0 mL | [OH-].[K+]
product | 4-[(E)-3-[4-(4-tert-Butylphenyl)-5,5,8,8-tetramethyl-5,6,7,8-tetrahydro-2-naphthyl]-3-oxopropenyl]benzoic Acid | yield=61% | C(C)(C)(C)C1=CC=C(C=C1)C1=CC(=CC=2C(CCC(C12)(C)C)(C)C)C(/C=C/C1=CC=C(C(=O)O)C=C1)=O | C34H38O3
